US06355653B1
1.00, (0.003 mol) Thiophene-2-carboxylic acid N′-(2-benzenesulfonyl-1-imino-ethyl)-hydrazide were heated at 200° C. for 20 minutes. The molten mass Bras then cooled, dissolved in 5 ml hot ethanol and stirred for one hour at room temperature. The precipitated crystals were filtered off and dried to yield 0.87 g (93%) 3-benzenesulfonylmethyl-5-thiophen-2-yl-1H-[1,2,4]triazole as yellow crystals with mp. 191-193° C. MS m/e (%): 305 (M+, 100).

reactant | Thiophene-2-carboxylic acid N′-(2-benzenesulfonyl-1-imino-ethyl)-hydrazide | 0.003 mol | C1(=CC=CC=C1)S(=O)(=O)CC(=N)NNC(=O)C=1SC=CC1 | C13H13N3O3S2
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3-benzenesulfonylmethyl-5-thiophen-2-yl-1H-[1,2,4]triazole | 0.87 g, 93% | C1(=CC=CC=C1)S(=O)(=O)CC1=NNC(=N1)C=1SC=CC1 | C13H11N3O2S2
